US05324747
A mixture of 4.91 g (7.95 mmol) of 3-(3-bromopropoxy)-5-(octadecyloxy)benzoic acid phenylmethyl ester and 1.5 ml (8.74 mmol) of triethyl phosphite was stirred and heated at 150° for 32 hours. Purification by chromatography on 250 g of silica gel gave 3.2 g (60% yield) of 3-[3-(octadecyloxy)-5-(phenylmethoxycarbonyl)phenoxy]propylphosphonic acid diethyl ester as an oil. The structure was confirmed by the nmr spectrum.

reactant | 3-(3-bromopropoxy)-5-(octadecyloxy)benzoic acid phenylmethyl ester | 7.95 mmol, 4.91 g | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCBr)=O | C35H53BrO4
reactant | triethyl phosphite | 8.74 mmol, 1.5 ml | P(OCC)(OCC)OCC | C6H15O3P
product | 3-[3-(octadecyloxy)-5-(phenylmethoxycarbonyl)phenoxy]propylphosphonic acid diethyl ester | 3.2 g, 60% yield | C(C)OP(OCC)(=O)CCCOC1=CC(=CC(=C1)C(=O)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC | C39H63O7P
